US07718652B2
A solution of 3-[(2-nitrobenzyl)amino]propan-1-ol (1.1 g, 5.0 mmol) in dichloromethane (50 mL) was treated with imidazole (0.68 g, 10 mmol) and tert-butylchlorodiphenylsilane (1.4 mL, 5.5 mmol) and stirred at 23° C. for 2 hours. The reaction mixture was quenched by the addition of H2O (50 mL) and 2 M aqueous NaOH (10 mL), and extracted with dichloromethane (2×50 mL), dried (Na2SO4), and evaporated. Flash chromatography (SiO2, 5-50% ethyl acetate/hexanes) provided 3-{[tert-butyl(diphenyl)silyl]oxy}-N-(2-nitrobenzyl) propan-1-amine (1.8 g, 80%) as a yellow oil:

reactant | 3-[(2-nitrobenzyl)amino]propan-1-ol | 5.0 mmol, 1.1 g | [N+](=O)([O-])C1=C(CNCCCO)C=CC=C1 | C10H14N2O3
reactant | imidazole | 10 mmol, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 5.5 mmol, 1.4 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-{[tert-butyl(diphenyl)silyl]oxy}-N-(2-nitrobenzyl) propan-1-amine | 1.8 g, 80% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCNCC1=C(C=CC=C1)[N+](=O)[O-] | C26H32N2O3Si
